US09431145B2
[1,1′:4′,1″-terphenyl]-2′,5′-dicarboxylic acid
2′,5′-Dimethyl-1,1′:4′,1″-terphenyl (180.9 g) was dissolved in pyridine (4296 mL), water (405 mL) was added and the reaction mixture heated to 90° C. Potassium permanganate (KMnO4) (516 g, Sigma-Aldrich) was carefully added and refluxing continued. Additional KMnO4 (235 g) and water (677 mL) were added every 30 minutes for 2 hours. Once addition was complete, refluxing was continued for 18 hours. The reaction mixture was filtered hot through a celite pad, washing the filter cake with boiling water (3×2000 mL). The filtrates were concentrated to remove most of the pyridine before adjusting to pH-1 with concentrated hydrochloric acid. The solids were collected by vacuum filtration, washed with water (2×1400 mL) and dried to give a cream solid. The solid was then refluxed in ethyl acetate (840 mL), cooled, collected by vacuum filtration and washed with ethyl acetate (2×233 mL) to give the product as a cream solid. Yield; 183.8 g.

reactant | 2′,5′-Dimethyl-1,1′:4′,1″-terphenyl | 180.9 g | CC1=C(C=C(C(=C1)C1=CC=CC=C1)C)C1=CC=CC=C1 | C20H18
reactant | water | 405 mL | O | H2O
reactant | Potassium permanganate | 516 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | KMnO4 | 235 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | 677 mL | O | H2O
reactant | ethyl acetate | 840 mL | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 4296 mL | N1=CC=CC=C1 | C5H5N
product | [1,1′:4′,1″-terphenyl]-2′,5′-dicarboxylic acid | C1(=CC=CC=C1)C=1C(=CC(=C(C1)C(=O)O)C1=CC=CC=C1)C(=O)O | C20H14O4
